US06670379B2
Preparation of (E)-3-(5-Bromo-2-methoxy-phenyl)-N-{2-[4-(4-chloro-benzoyl)-piperidin-1-yl]-ethyl}-acrylamide
To a suspension of 2-(formyl-3-methoxyphenoxy)ethyl polystyrene (AMEBA) resin (ex Novabiochem) (6.85 g, 3.33 mmol) in a mixture of methanol/dichloromethane (60 ml, 1:1 v/v) is added 2-amino ethanol and sodium triacetoxyborohydride (4.00 g, 18.85 mmol) and the mixture shaken for 16 hours at 20° C., then filtered. The resin is washed with methanol, DMF and dichloromethane, then dried under vacuum. A THF/acetonitrile mixture (50 ml, 1:1 v/v) is added to the dried resin followed by iodine (4.80 g, 18.85 mmol), imidazole (1.28 g, 18.85 mmol) and triphenylphosphine (4.90 g,18.85 mmol). The suspension obtained is shaken for 18 hours at 20° C., then filtered. The resin is washed with THF and dried under vacuum. To the freshly prepared resin (0.50 g, 0.35 mmol) is added a solution of (4-chloro-phenyl)-piperidin-4-yl-methanone hydrochloride (0.18 g, 0.70 mmol) dissolved in DMF (2 ml) and diisopropylethylamine (0.36 g, 2.8 mmol). The mixture is heated at 50° C. for 16 hours and then filtered. The resin is washed with DMF. To the washed resin are added (E)-3-(5-Bromo-2-methoxy-phenyl)-acrylic acid (0.27 g, 1.05 mmol), 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate (0.34 g, 1.05 mmol), diisopropylethylamine (0.29 g, 1.05 mmol) and DMF (4 ml) and the mixture is shaken at 20° C. for 16 hours, then washed with DMF and methanol, after which it is treated with trifluoroacetic acid/dichloromethane (6 ml, 1:1 v/v) at 20° C. for 1 hour to remove the product from the resin. The resulting mixture is filtered and the filtrate evaporated under vacuum to give the product, [MH]+506.7.

reactant | 2-amino ethanol | NCCO | C2H7NO
reactant | sodium triacetoxyborohydride | 18.85 mmol, 4.00 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | iodine | 18.85 mmol, 4.80 g | II | I2
reactant | imidazole | 18.85 mmol, 1.28 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 18.85 mmol, 4.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (4-chloro-phenyl)-piperidin-4-yl-methanone hydrochloride | 0.70 mmol, 0.18 g | Cl.ClC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | diisopropylethylamine | 2.8 mmol, 0.36 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-(5-Bromo-2-methoxy-phenyl)-acrylic acid | 1.05 mmol, 0.27 g | BrC=1C=CC(=C(C1)/C=C/C(=O)O)OC | C10H9BrO3
reactant | 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate | 1.05 mmol, 0.34 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 1.05 mmol, 0.29 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol dichloromethane | 60 ml | CO.ClCCl
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (E)-3-(5-Bromo-2-methoxy-phenyl)-N-{2-[4-(4-chloro-benzoyl)-piperidin-1-yl]-ethyl}-acrylamide | BrC=1C=CC(=C(C1)/C=C/C(=O)NCCN1CCC(CC1)C(C1=CC=C(C=C1)Cl)=O)OC | C24H26BrClN2O3
